US07238716B2
To a mixture of methyl 2-methoxymethoxy-5-propylbenzoate (6.06 g) and tetrahydrofuran (200 mL) was added lithium aluminum hydride (0.96 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. To the mixture was added sodium sulfate 10 hydrate (8.18 g) and the mixture was further stirred at room temperature for 30 min. The insoluble materials were removed by filtration, and the filtrate was concentrated to give (2-methoxymethoxy-5-propylphenyl)methanol as an oil (4.98 g, 93%).

reactant | methyl 2-methoxymethoxy-5-propylbenzoate | 6.06 g | COCOC1=C(C(=O)OC)C=C(C=C1)CCC | C13H18O4
reactant | lithium aluminum hydride | 0.96 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate 10 hydrate | 8.18 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (2-methoxymethoxy-5-propylphenyl)methanol | 4.98 g, 93% | COCOC1=C(C=C(C=C1)CCC)CO | C12H18O3
